US07700641B2
A. Synthesis of 3-(5-bromo-2-hydroxy-4-methoxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1C, and making non-critical variations to replace 4-bromo-1-pentyl-1H-indole-2,3-dione with 1-pentyl-1H-indole-2,3-dione, and 1,3-benzodioxol-5-ol with 4-bromo-3-methoxyphenol, the title compound was obtained (48%): 1H NMR (300 MHz, CDCl3) δ 9.85 (s, 1H), 7.52-7.38 (m, 2H), 7.22 (td, 1H), 6.94 (d, 1H), 6.89 (s, 1H), 6.63 (s, 1H), 4.13-4.03 (br, 1H), 3.86 (s, 3H), 3.80-3.57 (m, 2H), 1.75-1.63 (m, 2H), 1.40-1.25 (m, 4H), 0.88 (t, 3H); MS (ES+) m/z 402 (M−17), 404 (M−17), 442 (M+23), 444 (M+23).

reactant | 4-bromo-1-pentyl-1H-indole-2,3-dione | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)=O | C13H14BrNO2
reactant | 1-pentyl-1H-indole-2,3-dione | C(CCCC)N1C(C(C2=CC=CC=C12)=O)=O | C13H15NO2
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 4-bromo-3-methoxyphenol | BrC1=C(C=C(C=C1)O)OC | C7H7BrO2
product | 3-(5-bromo-2-hydroxy-4-methoxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C(=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O)OC | C20H22BrNO4
